US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (387 mg, 0.91 mmol) with (±)-4-(3,3-dimethyl-cyclohexyloxy)-benzylamine (233 mg, 1 mmol) in anhydrous 1,4-dioxane (14 mL). Purify the crude mixture by chromatography on silica gel eluting with cyclohexane/EtOAc (19:1 to 1:1 gradient) to obtain (±)-7-chloro-6-[4-(3,3-dimethyl-cyclohexyloxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (227 mg, 50%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.91 mmol, 387 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (±)-4-(3,3-dimethyl-cyclohexyloxy)-benzylamine | 1 mmol, 233 mg | CC1(CC(CCC1)OC1=CC=C(CN)C=C1)C | C15H23NO
solvent | 1,4-dioxane | 14 mL | O1CCOCC1 | C4H8O2
product | (±)-7-chloro-6-[4-(3,3-dimethyl-cyclohexyloxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 227 mg, 50% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)OC1CC(CCC1)(C)C | C27H32ClF3N2O2
